US04672101
5-(5-bromo-2-hydroxyphenyl)hydantoin
To a 500-ml round-bottom flask equipped with a means for stirring and temperature control is added 0.55 mole (95.16 g) of p-bromophenol, 0.30 mole (44.44 g) of α-methoxyhydantoic acid, and 50 ml of concentrated HCl. The mixture is stirred at 50° C. for 17 hours. The water layer is then decanted, and the gum is washed with water several times. The resulting solid material is then crystallized from an ethanol-water solution to give the title compound having a melting point of 274° C. The structure is confirmed using C13 nuclear magnetic resonance spectroscopy.

reactant | p-bromophenol | 0.55 mole, 95.16 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | α-methoxyhydantoic acid | 0.30 mole, 44.44 g | COC(C(=O)O)NC(=O)N | C4H8N2O4
solvent | HCl | 50 ml | Cl | ClH
product | 5-(5-bromo-2-hydroxyphenyl)hydantoin | BrC=1C=CC(=C(C1)C1C(NC(N1)=O)=O)O | C9H7BrN2O3
